US04775677
[4-Oxo-3-(3,4,5-trimethoxyphenyl)-2-[(3,4,5-trimethoxyphenyl)imino]-5-thiazolidinylidene]acetic acid
Prepared by the method described in Example 1 from N,N'-bis(3,4,5-trimethoxyphenyl)thiourea (26.8 g, 66 mmoles) and acetylenedicarboxylic acid (9.8 g, 86 mmoles). Recrystallization from ethanol gave the product (19 g), mp 250°-252° C.

reactant | N,N'-bis(3,4,5-trimethoxyphenyl)thiourea | 66 mmoles, 26.8 g | COC=1C=C(C=C(C1OC)OC)NC(=S)NC1=CC(=C(C(=C1)OC)OC)OC | C19H24N2O6S
reactant | acetylenedicarboxylic acid | 86 mmoles, 9.8 g | C(#CC(=O)O)C(=O)O | C4H2O4
product | [4-Oxo-3-(3,4,5-trimethoxyphenyl)-2-[(3,4,5-trimethoxyphenyl)imino]-5-thiazolidinylidene]acetic acid | 19 g | O=C1N(C(SC1=CC(=O)O)=NC1=CC(=C(C(=C1)OC)OC)OC)C1=CC(=C(C(=C1)OC)OC)OC | C23H24N2O9S
